US07709645B2
2-tert-Butoxycarbonylamino-5-[3-(1H-indol-7-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid methyl ester (605 mg, 0.95 mmol) was suspended in methanol (10 mL), potassium hydroxide (50% w/v in water, 2 mL) was added and the resulting suspension was heated to 40° C. for 1 hour. Hydrochloric acid (1 N) was added to adjust the pH to 6. The mixture was extracted with ethyl acetate (10 mL×4). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was triturated with hexane to afford 2-tert-butoxycarbonylamino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid as a pale yellow powder (308 mg, 69%). MS: m/z 469 (M+H+).

reactant | 2-tert-Butoxycarbonylamino-5-[3-(1H-indol-7-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid methyl ester | 0.95 mmol, 605 mg | COC(C1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C=2C=CC=C1C=CNC21)S(=O)(=O)C2=CC=C(C=C2)C)NC(=O)OC(C)(C)C)=O | C35H32N4O6S
reactant | potassium hydroxide | 2 mL | [OH-].[K+]
reactant | Hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-tert-butoxycarbonylamino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 308 mg, 69% | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=CC=C1C=CNC21 | C27H24N4O4
